Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hepatocellular carcinoma, incarcerated ventral hernia.

 
Major Surgical or Invasive Procedure:
___ Laparoscopic peritoneal biopsy and open ventral hernia 
repair

 
History of Present Illness:
___ female, who was
incidentally found to have a right liver mass.  The CT scan
was performed for abdominal pain and demonstrated aortic
dissection as well as an incidental liver mass.  This mass was
biopsied and proven to be hepatocellular carcinoma.  She
presents today for elective resection.  Workup thus far has
failed to demonstrate any metastatic disease.

 
Past Medical History:
PMH: HTN, HLD, DM2, CAD s/p 2 stents ___ years ago (at ___), 
renal cell carcinoma

PSH: Cardiac stent x2, R renal ablation

 
Social History:
___
Family History:
Negative for family history of aneurysms
 
Pertinent Results:
___ 05:52AM BLOOD WBC-9.3 RBC-4.27 Hgb-10.8* Hct-34.2 
MCV-80* MCH-25.3* MCHC-31.6* RDW-14.0 RDWSD-40.4 Plt ___
___ 05:52AM BLOOD Glucose-119* UreaN-14 Creat-0.7 Na-137 
K-3.9 Cl-100 HCO3-25 AnGap-12
___ 05:52AM BLOOD ALT-16 AST-28 AlkPhos-82 TotBili-0.5
___ 05:52AM BLOOD Calcium-8.5 Phos-2.7 Mg-1.8

___ ___ F  ___  ___ 
 
Pathology Report Tissue: PERITONEUM, BIOPSY Procedure Date of 
___ 
 
  
Report not finalized. 
Assigned Pathologist ___, MD 
___ in only. 
PATHOLOGY # ___ 
PERITONEUM, BIOPSY 
  
(___) 

 
Brief Hospital Course:
On ___, she underwent laparoscopic peritoneal biopsy and 
open ventral
hernia repair with polypropylene mesh. The peritoneal cavity was 
surveilled noting multiple small white nodules on the abdominal 
wall peritoneum just adjacent
to the liver in the right upper quadrant. An area of the 
peritoneum in the right upper quadrant that contained multiple 
of these nodules was excised. This biopsy read by pathology was 
consistent with carcinomatosis. A large liver tumor was noted. 
Given biopsy findings, further resection of the tumor was 
aborted. Surgeon was Dr. ___. Please refer to 
operative note for details. 

Postop, pain was initially managed with an epidural. Vital signs 
were stable. The foley was removed, however, she had urinary 
retention and the foley was replaced. This was removed 6 hours 
after the epidural was removed on ___ and she was able to void. 
Diet was advanced and tolerated. Oxycodone was started after the 
epidural was removed and this was well tolerated. 

Dr. ___ met with the patient and her son to communicate the 
operative findings via a ___ interpreter. She was also 
presented at the weekly tumor conference. The plan was for her 
to follow up with oncolog and ___ clinic. 

At time discharge, she was tolerating a regular diet and had a 
BM. She was ambulating independently. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Furosemide 40 mg PO DAILY:PRN leg edema 
3. Glargine 42 Units Breakfast
Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Metoprolol Tartrate 50 mg PO BID 
6. Simvastatin 40 mg PO QPM 
7. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Sarna Lotion 1 Appl TP QID  
3.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
Maximum 6 of the 325 mg tablets daily  
4.  amLODIPine 10 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Furosemide 40 mg PO DAILY:PRN leg edema  
7.  Glargine 42 Units Breakfast
Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
8.  MetFORMIN (Glucophage) 1000 mg PO BID  
9.  Metoprolol Tartrate 50 mg PO BID  
10.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Carcinomatosis
metastatic hepatocellular carcinoma
incarcerated ventral hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ office at ___ for fever 
of 101 or greater, chills, nausea, vomiting, diarrhea, 
constipation, increased abdominal pain, pain not controlled by 
your pain medication, swelling of the abdomen or ankles, 
yellowing of the skin or eyes, inability to tolerate food, 
fluids or medications, the incision sites have redness, drainage 
or bleeding, or any other concerning symptoms.
.
You may shower. Allow water to run over the incision. Do not 
apply lotion or powder to the incision. Leave incisions open to 
the air.
.
No lifting more than 10 pounds. No straining
No driving if taking narcotic pain medication
.
Resume all home medications and insulin as ordered
 
Followup Instructions:
___